US04873255
2-(4-Aminophenoxymethyl)-2-methylchroman
780 mg of 2-methyl-2-(4-nitrophenoxymethyl)-2H-chromene (prepared as described in Preparation 3) were dissolved in 20 ml of methanol, and 160 mg of 10% w/w palladium-on-carbon were added to the solution. The solution was then hydrogenated at room temperature at a hydrogen pressure of about one atmosphere for about 10 hours. At the end of this time, the catalyst was filtered off, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography eluted with a 2:1 by volume mixture of hexane and ethyl acetate, to afford 500 mg of the title compound as a pale yellow oily substance.

reactant | 2-methyl-2-(4-nitrophenoxymethyl)-2H-chromene | 780 mg | CC1(OC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)[N+](=O)[O-] | C17H15NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-(4-Aminophenoxymethyl)-2-methylchroman | 500 mg | NC1=CC=C(OCC2(OC3=CC=CC=C3CC2)C)C=C1 | C17H19NO2
